US05086178
Ethyl triflate (3.56 g, 20.0 mmol) was added dropwise to a cold (0° C.) stirred solution of 1,4-diazabicyclo[2,2,2]octane (3.26 g, 29.1 mmol) in dry acetonitrile (25 cm3) under dry nitrogen. The reaction mixture was stirred at 0° C. for 1 hour and then at 20° C. for 3 hours; no precipitate appeared. The solution was rotary evaporated at water-pump pressure, and the white solid residue remaining was washed with cold diethyl ether to remove unreacted 1,4-diazabicyclo-[2,2,2]octane and then dried in vacuo, to give 1-ethyl-4-aza-1-azoniabicyclo[2,2,2]octane triflate (5.30 g, 18.3 mmol, 91.5%) shown by 1H n.m.r. analysis to contain a trace of 1,4-diethyl-1,4-diazoniabicyclo[2,2,2]octane ditriflate. A pure sample of the monoquaternary salt, m.p. 117°-119° C., δH (D2O soln.) 1.32 (tt; N+CH2CH), 3.18 (m; 3×ring CH2), 3.25-3.4 (complex, two overlapping absorption systems; 3×ring CH2 +N+CH2CH3), p.p.m., δF (same soln.; ext. CF3CO2H ref.) 0.03 (s; CF3SO3-) p.p.m., was obtained by recrystallizing the slightly impure product from an ethanol-diethyl ether mixture.

reactant | Ethyl triflate | 20.0 mmol, 3.56 g | O(S(=O)(=O)C(F)(F)F)CC | C3H5F3O3S
reactant | 1,4-diazabicyclo[2,2,2]octane | 29.1 mmol, 3.26 g | N12CCN(CC1)CC2 | C6H12N2
solvent | acetonitrile | 25 cm3 | C(C)#N | C2H3N
product | 1-ethyl-4-aza-1-azoniabicyclo[2,2,2]octane triflate | 18.3 mmol, 5.30 g, 91.5% | [O-]S(=O)(=O)C(F)(F)F.C(C)[N+]12CCN(CC1)CC2 | InChI=1S/C8H17N2.CHF3O3S/c1-2-10-6-3-9(4-7-10)5-8-10;2-1(3,4)8(5,6)7/h2-8H2,1H3;(H,5,6,7)/q+1;/p-1
